US07423159B2
A mixture of (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-{4-[(methylthio)methyl]phenyl}acrylamide (600 mg), m-chloroperbenzoic acid (387 mg) and tetrahydrofuran (50 mL) was stirred at 0° C. for 20 min. A saturated aqueous sodium sulfite solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium hydrogen carbonate, and then with saturated brine, dried (MgSO4) and concentrated. The obtained solid was recrystallized from acetone-hexane to give (2E)-3-(5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)-N-(4-((methylsulfinyl)methyl)phenyl)acrylamide (340 mg, yield 54%) as colorless prism crystals. melting point: 240-241° C.

reactant | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-{4-[(methylthio)methyl]phenyl}acrylamide | 600 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)CSC | C21H20FN3OS
reactant | m-chloroperbenzoic acid | 387 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2E)-3-(5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl)-N-(4-((methylsulfinyl)methyl)phenyl)acrylamide | 340 mg, yield 54% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)CS(=O)C | C21H20FN3O2S
